US07183423B1
A mixture of 3 mmol of methyl acrylate, 15 mmol of 3,3-dimethyl-2-butanol, 0.6 mmol of N-hydroxyphthalimide, 0.003 mmol of cobalt(II) acetate, 0.03 mmol of acetylacetonatocobalt(III), and 1 ml of acetonitrile was stirred at 60° C. in an oxygen atmosphere (1 atm) for 8 hours. A reaction mixture was subjected to column chromatography on a silica gel to yield γ-t-butyl-α-hydroxy-γ-methyl-γ-butyrolactone in a yield of 71%.

reactant | methyl acrylate | 3 mmol | C(C=C)(=O)OC | C4H6O2
reactant | 3,3-dimethyl-2-butanol | 15 mmol | CC(C(C)O)(C)C | C6H14O
reactant | N-hydroxyphthalimide | 0.6 mmol | ON1C(C=2C(C1=O)=CC=CC2)=O | C8H5NO3
reactant | oxygen | O=O | O2
reactant | acetonitrile | 1 ml | C(C)#N | C2H3N
catalyst | cobalt(II) acetate | 0.003 mmol | C(C)(=O)[O-].[Co+2].C(C)(=O)[O-]
product | γ-t-butyl-α-hydroxy-γ-methyl-γ-butyrolactone | yield of 71% | C(C)(C)(C)C1(CC(C(=O)O1)O)C | C9H16O3
